US07115589B2
[(4-{2-Ethoxy-9-[2-(3-hydroxy-phenyl)-ethyl]-9H-purin-6-ylamino}-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic Acid:
To a cooled flask (0° C.) under an atmosphere of N2 containing 0.096 g (4.02 mmol) of sodium hydride was added 2.0 mL of absolute ethanol. After the effervescence had ceased, the solution was transferred via pipette to a cooled (0° C.) pressure flask, under an atmosphere of N2, containing a mixture of [(4-{2-Fluoro-9-[2-(3-hydroxy-phenyl)-ethyl]-9H -purin-6-ylamino}-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic acid (0.199 g, 0.39 mmol) in 2.0 mL of absolute ethanol. Upon sealing the reaction vessel, the resulting mixture was stirred at ambient temperature for ˜10 min, then heated at 80° C. overnight. Ethanol was removed via N2 flow (slight heat) and the resulting thick suspension was dissolved in 25 mL of H2O (adjusted to pH ˜8 with 10% NaOH), filtered (0.2 μm, PTFE filter), and purified by RP-HPLC (CH3CN/H2O). Lyophilization provided a white solid (0.105 g): m/z 532 (M−H).

reactant | sodium hydride | [H-].[Na+]
reactant | [(4-{2-Fluoro-9-[2-(3-hydroxy-phenyl)-ethyl]-9H -purin-6-ylamino}-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic acid | 0.39 mmol, 0.199 g | FC1=NC(=C2N=CN(C2=N1)CCC1=CC(=CC=C1)O)NC1=CC=C(C=C1)C([PH2]=O)(O)P(O)(O)=O | C20H20FN5O6P2
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | ethanol | 2.0 mL | C(C)O | C2H6O
product | [(4-{2-Ethoxy-9-[2-(3-hydroxy-phenyl)-ethyl]-9H-purin-6-ylamino}-phenyl)-hydroxy-phosphinoylmethyl]-phosphonic Acid | 0.105 g | C(C)OC1=NC(=C2N=CN(C2=N1)CCC1=CC(=CC=C1)O)NC1=CC=C(C=C1)C([PH2]=O)(O)P(O)(O)=O | C22H25N5O7P2
